US07700583B2
N-Ethyl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-methane-sulfonamide
To a solution of N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-methanesulfonamide (300 mg, 0.86 mmol) in dry DMF (25 ml) was added sodium hydride (42 mg, 1.73 mmol in 60% mineral oil) and the mixture was stirred for 1 hr. Ethyl iodide (83 μl, 1.03 mmol) was added and the stirring was continued for an additional 16 hrs. The reaction was quenched by addition of water (25 ml) and extracted with diethyl ether (2×50 ml). The combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified by column chromatography (silica gel) using EtOAc-Heptane (1:1) as eluent. Pure fractions were collected and evaporated to dryness affording a slowly crystallizing oil which was suspended in diethyl ether and the solid filtered off affording 140 mg (43%) of the title compound as a solid.

reactant | N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-methanesulfonamide | 0.86 mmol, 300 mg | CC12CC(CC(N(C1)C(=O)C1=CC=C(C=C1)NS(=O)(=O)C)C2)(C)C | C18H26N2O3S
reactant | sodium hydride | 1.73 mmol, 42 mg | [H-].[Na+]
reactant | Ethyl iodide | 1.03 mmol, 83 μl | C(C)I | C2H5I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-Ethyl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-methane-sulfonamide | 140 mg, 43% | C(C)N(S(=O)(=O)C)C1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C20H30N2O3S
